Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male with PMH notable for DM 
(poorly compliant with insulin) and polysubstance abuse 
including IV heroin who presents with multiple seizures in the 
setting of likely hypoglycemia and heroin use.

Per report, pt was in his USOH until morning prior to admission. 
He awoke, used 20u of lantus insulin, and went back to sleep. He 
awoke at 10a with tremulousness, sweating. He ate 2 cookies and 
drank a glass of orange juice, but that's all he ate for the 
entire day. He then came from ___ into ___, where 
he used a 20 (~0.1g) of heroin via nasal insufflation. While 
with his friend, he apparently developed seizure-like activity 
and became unresponsive (see Neuro consult note for full 
details), and EMS was called. On EMS arrival, he was again 
responsive and was transported to our ED for further evaluation. 
During transport, he again became unresponsive.

In the ED, initial vital signs were: 98.1 140 106/50 18 99% RA.
-- On initial evaluation, he had additional seizure-like 
activity that resolved with lorazepam. After lorazepam 
administration, developed somnolence, bradypnea (RR 4), and 
hypoTN (SBP ___ initially, he was going to be intubated 
for airway protection and respiratory failure, but he was given 
naloxone x2 with reversal of MS, HR, and BP abnormalities. Labs 
were notable for: WBC 10.5, H/H 12.5/37.7, AST 65 (hemolyzed), K 
5.7 (whole blood), lactate 5.8, glucose 349, Gap 11, negative 
serum tox, bland UA other than + glucose and protein, VBG 
7.___  Imaging: Negative CXR and negative NCHCT for acute 
intracranial process. The pt was given: 3L NS, naloxone (total 
of 0.6mg), Ativan 2mg  
-- Consults: Neurology consulted. Felt etiology seizures ___ 
drug use and metabolic abnormalities.  Recommended admission to 
medicine.
-- On discussion with ED resident, he reported that pt was AOx3, 
conversing normally, and that earlier issues with somnolence and 
seizures had not been seen for several hours. 
Admission to Medicine was accepted. 
Vitals prior to transfer were: 97.6, 89, 96/60, 17, 100% on RA  

On arrival to the floor, pt recounts history above. He reports 
having a seizure 6 months ago; at this time, he notes his sugars 
were extremely high (1200) and he was in a "diabetic coma" for 6 
days at ___. He thinks his sugars were probably low, and 
postulated that this may have caused his seizure. He notes that 
he was previously using up to 2g heroin per day (much less than 
he took today), and thinks unrelated to seizures.

Denies f/c, chest pain, dyspnea, abdominal pain, n/v, d/c, or 
focal neurologic symptoms at present.

Notes some SI in the past, but has "some good people to talk to" 
and denies it in the present. Never has had HI. This event was 
not a suicide attempt. Past suicide attempts were by injection 
of IV heroin; however, "cause I don't usually inject, I couldn't 
hit the vein." Used his own insulin needles and did not share 
equipment at the time. Reports hx negative HIV testing and 
declines repeat. 

He describes poor glucose control at home, notes that he has 
burning pain in his feet with ambulation and "my fingertips and 
legs feel tingly all the time."

Of note, all his heroin use has been via nasal insufflation 
without shared equipment. His only IV use has been suicide 
attempts using his own clean insulin needles and equipment. 
 
Past Medical History:
Per pt, had a seizure ___ after heroin use which resulted in "6 
day coma".
- Diabetes on intermittent insulin
- Depression with prior suicide attempts (most recently 6 months
ago)
- Polysubstance abuse; most heroin abuse is via nasal 
insufflation
 
Social History:
___
Family History:
No history of SCD
 
Physical Exam:
VITALS: Tm 98.0, BP 106/75, P 75, RR 18, 99% RA 
Genl: well appearing, NAD 
HEENT: PERRLA. no icterus. MMM. no OP lesions. edentulous 
CV: RRR, NMRG 
Pulm: CTAB 
Abd: soft, ntnd 
Neuro: AOx3, no tremor, strength ___ in bilat UE,bilat ___. 
impaired sensation in fingertips and below the knee, described 
as "tingling" 

Discharge PHYSICAL EXAM:   
VITALS: 98.1 103/63 91 20 1005 on Ra
Genl: well appearing, NAD  
HEENT: PERRLA. no icterus. MMM. no OP lesions. edentulous  
CV: RRR, NMRG  
Pulm: CTAB  
Abd: soft, ntnd  
Neuro: AOx3, no tremor, strength ___ in bilat UE,bilat ___.
impaired sensation in fingertips and below the knee, described 
as
"tingling"  
Skin: no lesions on torso or bilat ___  

 
Pertinent Results:
___ 07:15AM   GLUCOSE-197* UREA N-13 CREAT-0.6 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-109* TOTAL CO2-24 ANION GAP-13
___ 07:15AM   ALT(SGPT)-17 AST(SGOT)-18 CK(CPK)-31* ALK 
PHOS-61 TOT BILI-0.3 DIR BILI-0.1 INDIR BIL-0.2
___ 07:15AM   cTropnT-<0.01 proBNP-811*
___ 07:15AM   CALCIUM-8.6 PHOSPHATE-2.3*# MAGNESIUM-1.7
___ 07:15AM   WBC-7.1 RBC-3.12* HGB-10.2* HCT-30.7* MCV-98 
MCH-32.7* MCHC-33.2 RDW-13.6 RDWSD-49.5*
___ 07:15AM   PLT COUNT-137*
___ 06:01AM   %HbA1c-14.8* eAG-378*
___ 03:32AM   COMMENTS-GREEN TOP
___ 03:32AM   LACTATE-2.9*
___ 03:29AM   ___ PO2-38* PCO2-45 PH-7.37 TOTAL CO2-27 
BASE XS-0
___ 03:29AM   K+-4.2
___ 03:29AM   O2 SAT-70
___ 11:20PM URINE  HOURS-RANDOM
___ 11:20PM URINE  HOURS-RANDOM
___ 11:20PM URINE  UHOLD-HOLD
___ 11:20PM URINE  GR HOLD-HOLD
___ 11:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 11:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 11:20PM URINE  RBC-9* WBC-8* BACTERIA-NONE YEAST-NONE 
EPI-2
___ 05:55PM   ___ PO2-54* PCO2-52* PH-7.29* TOTAL 
CO2-26 BASE XS--1 INTUBATED-NOT INTUBA
___ 05:55PM   O2 SAT-84
___ 05:08PM   COMMENTS-GREEN TOP
___ 05:08PM   LACTATE-5.8* K+-5.7*
___ 04:52PM   GLUCOSE-349* UREA N-16 CREAT-1.1 SODIUM-134 
POTASSIUM-7.3* CHLORIDE-97 TOTAL CO2-26 ANION GAP-18
___ 04:52PM   estGFR-Using this
___ 04:52PM   ALT(SGPT)-22 AST(SGOT)-65* CK(CPK)-80 ALK 
PHOS-70 TOT BILI-0.4
___ 04:52PM   cTropnT-<0.01
___ 04:52PM   ALBUMIN-4.1 CALCIUM-10.3 PHOSPHATE-5.1* 
MAGNESIUM-2.2 IRON-84
___ 04:52PM   calTIBC-356 FERRITIN-403* TRF-274
___ 04:52PM   HBsAg-Negative HBs Ab-Negative
___ 04:52PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:52PM   HCV Ab-Negative
___ 04:52PM   WBC-10.5* RBC-3.87* HGB-12.5* HCT-37.7* 
MCV-97 MCH-32.3* MCHC-33.2 RDW-13.4 RDWSD-47.5*
___ 04:52PM   NEUTS-54.9 ___ MONOS-9.1 EOS-0.5* 
BASOS-0.3 IM ___ AbsNeut-5.77 AbsLymp-3.61 AbsMono-0.96* 
AbsEos-0.05 AbsBaso-0.03
___ 04:52PM   PLT COUNT-___ hx DM (poorly compliant with insulin) and polysubstance 
abuse including IV heroin who presents with AMS and seizures in 
the setting of heroin abuse in addition to possible 
hypoglycemia. 

# AMS: Patient presented with AMS on admission. unclear cause. 
Likely ___ two possible causes: (1) hypoglycemic symptoms in 
setting of taking unclear doses of insulin and not eating very 
well, and (2) opioid intoxication, given that seizures resolved 
with lorazepam and naloxone and hx prior seizures w heroin (3) 
arrhythmia from ischemia. Seizure disorder is less likely given 
lack of prior history, as well as responsiveness to naloxone. 
also today he underwent ETT which was negative making ischemia 
less likely. He also did not have abnormal EKG finding on 
stress.
Now has returned to baseline MS.

# Electrolyte disturbances, elevated lactate: HyperK, hyperPhos, 
mild incr Cr, lactate 5 -> 3. Likely ___ seizure event. on 
discharge his K is 4.3. 

# Hyperglycemia and Poorly Controlled DM:  Likely acute on 
chronic in the setting of seizure. the patient is not adherent 
to his medication. will require adjustment of his insulin as a 
outpatient. notable his HbA1C is 14.8%

TRANSITIONAL ISSUES:
===========================
[] The patient presented with syncope or seizure which is still 
unexplained. A possible explanation was hypoglycemia. Recommend 
better titration of insulin therapy is warranted. Discharged on 
lower insulin regimen that prior. Though will likely need 
uptritration as HgbA1c of 14.6
[] Patient was discharged on IN narcan for overdose treatment. 
Please revisit the idea of rehabilitation with him.
[] The patient endorsed shortness of breath with activity in the 
past. ETT was normal during admission. Continue to counsel on 
diabetes care as an outpatient. 
[] encourage smoking cessation
# CODE: Full
# CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Unknown 0 Units Bedtime

 
Discharge Medications:
1. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
10 Units before BED; Disp #*1 Syringe Refills:*3
RX *blood-glucose meter [Blood Glucose Monitoring]  1 kit as 
directed daily Disp #*1 Kit Refills:*0
RX *insulin lispro [Humalog KwikPen] 100 unit/mL AS DIR Up to 10 
Units QID per sliding scale Disp #*1 Syringe Refills:*3
RX *lancets [FreeStyle Lancets] 28 gauge use one four times a 
day Disp #*100 Each Refills:*0
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ult-Fine 
II] 31 gauge X ___ use one four times a day Disp #*90 Syringe 
Refills:*0
2. Glucose Gel 15 g PO PRN hypoglycemia protocol 
RX *dextrose [Gluco Shot] 15 gram/59 mL 15 liquid(s) by mouth as 
needed Disp #*1770 Milliliter Milliliter Refills:*0
3. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0
5. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DISGNOSIS:
- syncope unspecified
- seizure unspecified

SECONDARY DIAGNOSIS:
uncontrolled diabetes with complications
Diabetic neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was  a pleasure meeting you and taking care you. You were 
admitted after losing consciousness. We were uncertain what had 
caused this as there were multiple possible reasons, including 
seizures, low blood glucose, heroin overdose and cardiac 
arrhythmia. You were observed in the hospital for 48 hours 
without losing consciousness again or having any abnormal heart 
problems. We believe that your loss of consciousness was thus 
caused by low blood sugars or seizures. 

It was also noted during your admission that your blood sugar 
levels became very high and that your HgbA1c a marker of average 
blood glucose levels was very elevated. It is very important 
that you see your PCP to continue treating your diabetes as you 
are at high risk for kidney disease, eye disease, heart disease 
and nerve damage from these high blood sugars. 

Finally, we recommend that you continue to try to remain 
abstinent from heroin and other drugs. We recommend referral to 
drug rehab program. We are discharging you on intranasal 
naloxone to treat potential overdoses. Finally, it is important 
for your health to quit smoking. 

We wish you the best, 

Your ___ team

 
Followup Instructions:
___